Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole
 
Attending: ___
 
Chief Complaint:
high grade serous ovarian cancer
 
Major Surgical or Invasive Procedure:
laparoscopic converted to exploratory laparotomy, total 
abdominal hysterectomy, bilateral salpingo-oopherectomy, 
omentectomy, pelvic and para-aortic lymph node dissection, 
paracolic gutter biopsies, diaphragm biopsies

 
History of Present Illness:
This is a ___ yo G0 who presented for surgical management for 
newly diagnosed ovarian cancer. In ___, she developed acute 
onset right lower quadrant pain and was evaluated at ___ 
___ at which time she underwent CT scan and was found to 
have a right ovarian cyst 6.3 cm in greatest dimension. She then 
underwent a laparoscopic right ovarian cystectomy at which time 
the 6-7 cm cyst was incidentally ruptured upon removal. Final 
pathology sent from ___ to ___ revealed 
high grade serous carcinoma of the ovary, no ovarian surface 
involvement, no lymphovascular invasion. On the day of admission 
she presented for surgical staging with a plan for postoperative 
admission to the gynecology oncology service.
 
Past Medical History:
PGynHx:
- Mirena IUD in place since ___ for menorrhagia, does not 
regularly cycle with Mirena
- Prior to Mirena IUD, menses lasted 7 days, heavy and painful
- Not sexually active
- Denies abnormal pap smears, last in our system ___ negative
- Denies STI, pelvic infections, PID
- Denies h/o fibroids

PMH: 
- viral encephalitis at age ___ resulting in developmental delay &
learning disabilities
- vitiligo
- depression
- IBS
- Raynaud's disease

PSH: 
- wrist surgery x 2
- sinus surgery x 2
- laparoscopic right ovarian cystectomy as above
 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal 
great uncle had colon cancer. Mother and grandfather have high 
blood pressure. She otherwise denies a family history of 
ovarian, uterine, cervical or vaginal cancer.
 
Physical Exam:
Prior to admission:
GEN:      WN/WD, NAD
HEENT:    normal
Neck:     Supple, No ___:   Smooth, no masses, no thyromegally
Lungs:    Clear bilaterally
Cardiac:  RRR. No murmurs
ABD:      Soft, NT, ND, No HSM, No masses
EXT:      No CT, No edema

On discharge:
Afebrile, HR ___, BP 120s/80s
Gen: alert, oriented, conversant
Lungs: clear bilaterally
Cardiac: regular rate and rhythm with no murmurs
Abdomen: vertical midline incision extending above umbilicus, 
well-approximated with staples. No erythema, exudate, or 
fluctuance. Abdomen softly distended with hypoactive bowel 
sounds, nontender to palpation.
Ext: no edema, nontender
 
Pertinent Results:
___ 12:40PM BLOOD WBC-9.7 RBC-4.36 Hgb-12.0 Hct-36.5 MCV-84 
MCH-27.4 MCHC-32.8 RDW-13.9 Plt ___
___ 04:58PM BLOOD WBC-11.9* RBC-4.25 Hgb-11.7* Hct-35.7* 
MCV-84 MCH-27.5 MCHC-32.8 RDW-13.7 Plt ___
___ 12:05AM BLOOD WBC-10.3 RBC-3.79* Hgb-10.3* Hct-31.2* 
MCV-82 MCH-27.1 MCHC-32.9 RDW-13.9 Plt ___
___ 09:40AM BLOOD WBC-9.5 RBC-4.26 Hgb-11.4* Hct-35.6* 
MCV-84 MCH-26.7* MCHC-32.0 RDW-14.0 Plt ___
___:10AM BLOOD WBC-6.4 RBC-3.30* Hgb-9.0* Hct-27.7* 
MCV-84 MCH-27.1 MCHC-32.3 RDW-13.9 Plt ___
___ 06:55AM BLOOD WBC-4.9 RBC-3.28* Hgb-8.9* Hct-27.3* 
MCV-83 MCH-27.2 MCHC-32.7 RDW-14.0 Plt ___
___ 07:20AM BLOOD WBC-4.4 RBC-3.38* Hgb-9.2* Hct-27.8* 
MCV-82 MCH-27.1 MCHC-33.0 RDW-14.1 Plt ___
___ 08:25AM BLOOD WBC-4.0 RBC-3.63* Hgb-9.8* Hct-30.1* 
MCV-83 MCH-26.9* MCHC-32.4 RDW-14.0 Plt ___

___ 12:40PM BLOOD Glucose-127* UreaN-10 Creat-0.7 Na-139 
K-3.8 Cl-105 HCO3-28 AnGap-10
___ 04:58PM BLOOD Glucose-122* UreaN-8 Creat-0.7 Na-138 
K-4.5 Cl-103 HCO3-29 AnGap-11
___ 09:40AM BLOOD Glucose-76 UreaN-6 Creat-0.7 Na-135 K-3.6 
Cl-97 HCO3-28 AnGap-14
___ 06:10AM BLOOD Glucose-64* UreaN-8 Creat-0.6 Na-138 
K-3.9 Cl-105 HCO3-24 AnGap-13
___ 06:55AM BLOOD Glucose-122* UreaN-4* Creat-0.5 Na-137 
K-4.2 Cl-106 HCO3-25 AnGap-10
___ 07:20AM BLOOD Glucose-93 UreaN-4* Creat-0.5 Na-141 
K-3.6 Cl-107 HCO3-27 AnGap-11
___ 08:25AM BLOOD Glucose-111* UreaN-5* Creat-0.6 Na-142 
K-3.9 Cl-107 HCO3-28 AnGap-11

___ 04:58PM BLOOD LD(LDH)-172 CK(CPK)-155
___ 09:40AM BLOOD CK(CPK)-613*
___ 06:10AM BLOOD CK(CPK)-442*
___ 04:58PM BLOOD CK-MB-6 cTropnT-<0.01
___ 09:40AM BLOOD CK-MB-9 cTropnT-<0.01
___ 06:10AM BLOOD CK-MB-7 cTropnT-<0.01

___ 12:40PM BLOOD Calcium-8.2* Phos-3.4 Mg-2.0
___ 04:58PM BLOOD Calcium-8.3* Phos-3.7 Mg-1.8
___ 09:40AM BLOOD Calcium-8.2* Phos-2.0*# Mg-2.0
___ 06:10AM BLOOD Calcium-7.4* Phos-3.2 Mg-2.0
___ 06:55AM BLOOD Calcium-7.9* Phos-1.6*# Mg-1.9
___ 07:20AM BLOOD Calcium-7.7* Phos-3.4# Mg-1.9
___ 08:25AM BLOOD Calcium-8.6 Phos-2.9 Mg-1.9
___ 06:55AM BLOOD TSH-4.8*

___ 12:02AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 12:02 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

___ 11:53 ___
CHEST (PORTABLE AP) Clip # ___  
CHEST RADIOGRAPH
INDICATION:  Tachycardia, pleuritic chest pain, questionable 
pneumonia.
COMPARISON:  No comparison available at the time of dictation.
FINDINGS:  The lung volumes are normal.  No pleural effusions.  
No focal parenchymal abnormalities.  No pneumonia, no pulmonary 
edema.  Normal size of the cardiac silhouette.  Moderate 
scoliosis with subsequent asymmetry of the rib cage, mild 
tortuosity of the thoracic aorta.

___ 10:45 AM
CTA CHEST W&W/O C&RECONS, NON- Clip # ___  
UNDERLYING MEDICAL CONDITION:
___ year old woman postop day #1 with persistent tachycardia, 
pleuritic chest pain
COMPARISON:  Chest radiograph from ___.
FINDINGS:
There is no evidence of pulmonary embolism to the subsegmental 
level bilaterally.  The thoracic aorta is unremarkable.  The 
heart is grossly normal.  There is no pericardial effusion.  No 
pathologically enlarged mediastinal, hilar, or axillary lymph 
nodes are seen.
There are small bilateral non hemorrhagic pleural effusions, 
left slightly greater than right.  There is also subsegmental 
bilateral lower lobe atelectasis.  The lungs are otherwise 
clear.  The tracheobronchial tree is patent to the segmental 
level bilaterally. 
This study was not optimized for evaluation of the 
subdiaphragmatic contents.  Limited assessment of the upper 
abdomen demonstrates small volume pneumoperitoneum, not 
unexpected given recent surgery.  There is also minimal ascites 
in the perihepatic region.  
Bone window:  No suspicious lytic or blastic lesions are 
identified.
IMPRESSION:
1. Small bilateral non hemorrhagic pleural effusions.
2. No evidence of pulmonary embolism to the subsegmental level 
bilaterally.
3. Minimal pneumoperitoneum, not unexpected given recent 
surgery.  Small volume ascites, nonspecific in nature but likely 
related to recent surgery. 
 
Brief Hospital Course:
This patient was admitted to the gynecology oncology service 
following staging surgery for ovarian cancer. Please refer to 
the operative report for details of the surgery.  

Her post-operative course is outlined as follows. Immediately 
post-operatively, her pain was controlled with an epidural. She 
continued to have incisional discomfort and was followed by the 
Acute Pain Service; her pain regimen included a Dilaudid PCA, 
tylenol, gabapentin, and Toradol. The epidural was removed on 
postoperative day #2 and her other pain medications were 
transitioned to oral Percocet and ibuprofen.

In the PACU she was noted to have tachycardia to 130 bpm with 
normal blood pressures and oxygen saturation. EKG showed sinus 
tachycardia and she did not have any concerning anemia. Her 
heart rate decreased to 110 bpm on postoperative day #1 but she 
complained of chest discomfort. EKG again demonstrated sinus 
tachycardia. Troponins were negative. Chest xray and CTA chest 
demonstrated no evidence of cardiopulmonary process. The chest 
discomfort and tachycardia completely resolved on postoperative 
day #2 and did not recur. 

On the early morning of postoperative day #1 she developed a 
fever of 101.8F. Symptoms, physical examination, chest xray, and 
urine culture were all unrevealing and she defervesced 
spontaneously. She remained afebrile for the remainder of her 
hospitalization without evidence of infection.

She was given sips on postoperative day #1 and was then 
transitioned to clear liquids. She had some mild abdominal 
distention and discomfort but no nausea. She continued on clear 
liquids until postoperative day #4 when she experienced both 
flatus and a bowel movement. Her diet was advanced and she 
tolerated a regular diet without nausea. Her urine output was 
always adequate in the postoperative period. Her Foley catheter 
was removed following removal of the epidural and she voided 
spontaneously. 

For her cancer, she was seen by Dr ___ in 
consultation and plans were made to continue medical oncology 
visits postoperatively. She was followed by the inpatient social 
work team. She was continued on her home medications for 
depression.

By post-operative day #5, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO HS 
2. DiCYCLOmine 20 mg PO TID:PRN GI discomfort 
3. Duloxetine 60 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Hydroxychloroquine Sulfate 200 mg PO BID 
6. Omeprazole 40 mg PO DAILY 
7. Loratadine *NF* 10 mg Oral daily 

 
Discharge Medications:
1. Amitriptyline 10 mg PO HS 
2. Duloxetine 60 mg PO DAILY 
3. Gabapentin 300 mg PO BID 
4. Hydroxychloroquine Sulfate 200 mg PO BID 
5. Omeprazole 40 mg PO DAILY 
6. DiCYCLOmine 20 mg PO TID:PRN GI discomfort 
7. Loratadine *NF* 10 mg Oral daily 
8. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
9. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*60 Tablet Refills:*0
10. Simethicone 40-80 mg PO QID:PRN gas pain 
RX *simethicone 80 mg 1 tablet by mouth four times a day Disp 
#*60 Tablet Refills:*0
11. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
high grade serous ovarian cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions:  

* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks.  
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
  
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.
* If you have staples, they will be removed at your follow-up 
visit.  
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
  
Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing  
 
Followup Instructions:
___